US05939435
1-(4-Fluorobenzoyl)-1,2-dihydro-quinoline-2-carboxylic acid amide
1-(4-Fluorobenzoyl)-1,2-dihydro-quinoline-2-carbonitrile (24.0 g) was dissolved in acetone (500 mL). Solid sodium bicarbonate (15 g) was added. The mixture was stirred for 10 minutes. 30% Hydrogen peroxide solution (300 mL of a 30% solution) was added drop-wise. Stirring was continued for 30 minutes. The mixture was then warmed slowly until a solution formed, then stirred at ambient temperature for 2 hours. The acetone was evaporated under vacuum. The aqueous residue was diluted with water (100 mL), and acidified with 1N HCl. The mixture was extracted with ethyl acetate (500 mL). The organic extract was washed with water (300 mL), dried over anhydrous sodium sulfate, then concentrated. Hexane was added to the precipitation point. The solid was collected and dried to give the title compound as a white solid, m. p. 149-151° C.

reactant | 1-(4-Fluorobenzoyl)-1,2-dihydro-quinoline-2-carbonitrile | 24.0 g | FC1=CC=C(C(=O)N2C(C=CC3=CC=CC=C23)C#N)C=C1 | C17H11FN2O
reactant | sodium bicarbonate | 15 g | C([O-])(O)=O.[Na+]
reactant | Hydrogen peroxide | OO | H2O2
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 1-(4-Fluorobenzoyl)-1,2-dihydro-quinoline-2-carboxylic acid amide | FC1=CC=C(C(=O)N2C(C=CC3=CC=CC=C23)C(=O)N)C=C1 | C17H13FN2O2
